US05399778
Cyclohexanone dimethyl ketal (CHMK) was prepared as described in Example 1 from 1 mol of cyclohexanone and trimethyl orthoformate. 370.6 g of isobutanol (2-methyl-1-propanol, 5.0 mols) were added, and the transketalization was then carried out under reflux while the sump temperature was gradually increased from 110° to 160° C. After a running time of 2 hours, another 0.4 g of p-toluenesulfonic acid was added. The low-boiling-point components, i.e. methyl formate, methanol and a small amount of isobutyl formate, were removed by distillation under reflux (ratio 1:5 to 1:2) over the course of 4 hours.

reactant | cyclohexanone | 1 mol | C1(CCCCC1)=O | C6H10O
reactant | trimethyl orthoformate | C(OC)(OC)OC | C4H10O3
reactant | isobutanol | 5.0 mols, 370.6 g | C(C(C)C)O | C4H10O
reactant | p-toluenesulfonic acid | 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Cyclohexanone dimethyl ketal | COC1(CCCCC1)OC | C8H16O2
